US08748613B2
Ethyl 2-(4-acetylpiperazin-1-yl)-2-phenylacetate (285 mg, 0.98 mmol) was dissolved in a mixture EtOH (6.5 ml) and water (3.3 ml). LiOH (23.5 mg, 0.98 mmol) was added and the reaction was stirred at room temperature overnight. LiOH (23.5 mg, 0.982 mmol) was added again and the mixture was stirred for additional 24 hours. EtOH was evaporated and 1N HCl was added dropwise to the aqueous solution till pH 6-7 before evaporating to dryness. The crude was purified by flash chromatography (DCM/MeOH=75/25) to obtain 2-(4-acetylpiperazin-1-yl)-2-phenylacetic acid (246 mg, 96% yield) as a white solid.

reactant | Ethyl 2-(4-acetylpiperazin-1-yl)-2-phenylacetate | 0.98 mmol, 285 mg | C(C)(=O)N1CCN(CC1)C(C(=O)OCC)C1=CC=CC=C1 | C16H22N2O3
reactant | LiOH | 0.98 mmol, 23.5 mg | [Li+].[OH-]
reactant | LiOH | 0.982 mmol, 23.5 mg | [Li+].[OH-]
solvent | EtOH | 6.5 ml | CCO | C2H6O
solvent | water | 3.3 ml | O | H2O
product | 2-(4-acetylpiperazin-1-yl)-2-phenylacetic acid | 246 mg, 96% yield | C(C)(=O)N1CCN(CC1)C(C(=O)O)C1=CC=CC=C1 | C14H18N2O3
